US07348359B2
A. 1-Bromo-3,5-di-tert-butyl-2-propoxy-benzene
A solution of 2-bromo-4,6-di-tert-butyl-phenol (18.58 g, 65 mmol) in DMF (200 mL) was added to a stirred slurry of sodium hydride in anhydrous DMF (500 mL) precooled to −7° C. over 15 min. The resulting reaction mixture was stirred at <0° C. for 0.5 h. n-Propyl iodide was added and stirring of the olive green reaction mixture was continued for 18 h. after removal of the ice bath. The reaction was quenched with de-ionized water (2.5 L), 1 M HCl (250 mL) and 5% LiCl solution (250 mL). The resulting mixture was extracted with ethyl acetate (2×250 mL). Sodium chloride (q.s. to saturation) was added to facilitate the separation. The aqueous layer was extracted with hexane (200 mL). The combined organic layers were washed with 5% LiCl (2×200 mL) dried (MgSO4) and filtered. The solvent was removed under vacuum to give a viscous oil which was a 2:1 ration of product to DMF. The residue was dissolved in hexane (100 mL) and the solution was washed with 5% LiCl solution (3×30 mL). The hexane solution was dried (MgSO4), filtered, and the hexane was removed under vacuum to give a light brown oil which crystallized on standing to give a tan solid (21.23 g, 99%). The product may be purified by sublimation at 150° C. at 0.5 torr to give a light yellow solid. NMR (250 Mz, CDCl3): δ 7.32 (d, 1H, J=2.4 Hz), 7.20 (d, 1H, J=2.4), 3.92 (t, 2H, J=6.8), 1.82 (sex, 2H), 1.00 (t, 3H, J=7.4). MS [EI+] 326, 328 (M+H)+.

reactant | 2-bromo-4,6-di-tert-butyl-phenol | 65 mmol, 18.58 g | BrC1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O | C14H21BrO
reactant | sodium hydride | [H-].[Na+]
reactant | n-Propyl iodide | C(CC)I | C3H7I
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
solvent | hexane | 100 mL | CCCCCC | C6H14
product | 1-Bromo-3,5-di-tert-butyl-2-propoxy-benzene | 21.23 g, 99% | BrC1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)OCCC | C17H27BrO
